Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Solu-Medrol
 
Attending: ___
 
Chief Complaint:
AAA
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The pt is an ___ y/o F with PHMx of cognitive impairment, 
paroxysmal afib on Coumadin, DM2, COPD on 5L O2, CAD, CKD, 
diastolic heart failure, carcinoid tumor, AAA, who presented to 
OSH with 5 days of abdominal discomfort. She presented to an OSH 
(CHA) where CT imaging showing increase in diameter of her AAA. 
 
She was given KCentra for possible upcoming surgery and was 
briefly placed on an esmolol gtt. She was seen by vascular 
surgery who did not feel that she was a good surgical candidate. 
She was admitted to medicine for BP control and ___ 
assessment.

ED Course:
Initial VS: 97 70 140/90 20 92% 5 liters Pain ___
Labs significant for INR 2.6->1.4. Cr 1.4. Tn <0.01. Lactate 
1.5. UA with 29 WBCs, no bacteria.
Imaging: no new imaging done here
Meds given:
___ 19:30 IV DRIP Esmolol 
___ 19:49 IV Kcentra 1617 units 
___ 21:52 IV Phytonadione 5 mg  
VS prior to transfer: 62 115/54 20 95% Pain ___ 

On arrival to the floor, the patient endorses several days of 
abdominal discomfort. She describes this as an "ache" in the 
___ her abdomen. She reports that the pain is worse when 
she goes out in cold weather and that it resolves when she goes 
back in her house. She denies any associated NVD. Of note, the 
history is somewhat limited by patient's underlying cognitive 
impairment, as she is not aware of the details of much of her 
medical conditions.

 
Past Medical History:
- Paroxysmal Atrial Fibrillation
- Chronic respiratory failure with hypoxia
- COPD On Home O2 Since ___. 
- Chronic diastolic congestive heart failure
- AAA 58 mm. Advised Repair ___, Declined.    
- SVT, Minor 
- Type 2 diabetes mellitus with mild nonproliferative diabetic 
retinopathy without macular edema
- Astigmatism due to surgery 
- Cognitive impairment 
- B12 deficiency 
- Bilateral shoulder pain 
- Chondrocalcinosis articularis  
- UTI (lower urinary tract infection) 
- Chronic renal insufficiency, stage III
- CAD 
- Pseudophakia  
- Vitamin D deficiency 
- Carcinoid tumor ___ Stomach Bx, Inactive ___  
- Iron deficiency anemia, unspecified 
- Other hyperlipidemia 
- Unspecified sleep apnea 
- Cataract Sx
- CCY
- Ovarian cystectomy
- PPM placement

 
Social History:
___
Family History:
No family history of AAA
 
Physical Exam:
VS - 24 HR Data (last updated ___ @ 803)
    Temp: 97.4 (Tm 97.4), BP: 118/68 (118-121/64-68), HR: 62 
(60-62), RR: 16 (___), O2 sat: 91% (91-94), O2 delivery: 5L 
NC, Wt: 141.1 lb/64 kg  
___ 0550 FSBG: 97 
GEN - Alert, NAD
HEENT - NC/AT, MMM
NECK - Supple
CV - Irreg irreg, no m/r/g
RESP - CTA B aside from faint crackles at the bases, breathing 
appears comfortable
ABD - BS present, soft, protruding hernia in the upper abdomen 
which is mildly tender to palpation
EXT - No ___ edema or calf tenderness
SKIN - No apparent rashes
NEURO - Moving all extremities equally and with purpose; 
oriented to being in the hospital (but not to which one), 
oriented to month but not year (thought the year was ___
PSYCH - Calm, appropriate
 
Pertinent Results:
Admission Labs:
___ 07:21PM BLOOD WBC-8.0 RBC-4.97 Hgb-14.3 Hct-46.2* 
MCV-93 MCH-28.8 MCHC-31.0* RDW-14.6 RDWSD-49.6* Plt ___
___ 07:21PM BLOOD Neuts-66.1 ___ Monos-6.3 Eos-5.0 
Baso-0.6 Im ___ AbsNeut-5.26 AbsLymp-1.73 AbsMono-0.50 
AbsEos-0.40 AbsBaso-0.05
___ 07:21PM BLOOD ___ PTT-51.4* ___
___ 07:21PM BLOOD Glucose-91 UreaN-24* Creat-1.4* Na-143 
K-3.6 Cl-103 HCO3-27 AnGap-13
___ 07:21PM BLOOD ALT-13 AST-20 AlkPhos-103 TotBili-1.1
___ 07:21PM BLOOD Lipase-35
___ 07:21PM BLOOD cTropnT-<0.01
___ 12:50PM BLOOD cTropnT-<0.01
___ 07:21PM BLOOD Albumin-4.0 Calcium-9.1 Phos-3.3 Mg-2.0
 
Discharge Labs:
 
Imaging:
CTA Torso - IMPRESSION:   
1. Substantial increase in size of an infrarenal abdominal 
aortic aneurysm now measuring up to 7.2 cm. Although there is no 
evidence of rupture, there is irregular luminal enhancement 
which raises the concern of impending rupture.   
2. Linear area of hypoenhancement within the aneurysm sac 
beginning just below the renal arteries either mixing artifact 
or focal dissection.   
3. Severe atherosclerotic disease.   
4. Bronchiectasis and mucous plugging in the right upper lobe.   

5. Enlarged pulmonary trunk suggestive of pulmonary 
hypertension. 
6. Large bowel containing complex ventral hernia, no evidence of 
obstruction.   

 
Brief Hospital Course:
___ is a ___ woman with PHMx of dementia, paroxysmal afib on 
Coumadin, DM2, COPD on 5L O2, CAD, CKD, diastolic heart failure, 
carcinoid tumor, AAA, who presented to OSH with 5 days of 
abdominal discomfort where CT imaging showing increase in 
diameter of her AAA and transferred here for vascular surgery 
evaluation.
   
# AAA: The patient presents with several days of abdominal 
"ache" with CTA at OSH showing increase in size of AAA. Vascular 
surgery consulted and reported that there were no surgical 
options at this time, given the anatomy of the patient's AAA and 
the patient's severe medical comorbidities. She was admitted to 
medicine for BP control and for placement. The admitting 
provider and this provide both discussed the findings with the 
patient and her HCP/son and reiterated the risk of death should 
this AAA rupture, and the CT shows impending rupture.  Clearly 
the patient feels she is at the end of her life and accepting 
that she will one day die, and does not want life sustaining 
measures should something occur. She was transitioned to DNR/DNI 
which was documented in chart, POE and MOLST. We also discussed 
restarting ___ versus witholding warfarin. We discussed the 
risks and benefits of each which included but was not limited 
to, if we hold warfarin her risk of a life-threatening bleed 
related to AAA reduces and she would not need INR monitoring, 
while at the risk of stroke increases. On the other hand, 
holding warfarin may benefit from AAA standpoint at the risk of 
increase in strokes. The patient and son/HCP decided that the 
morbidity associated with a stroke would not outweight the 
prolonged life benefit on not anticoagulating, and morbidity of 
stroke is not consistent with the quality of life she is 
interested in. They both would rather take the risk of a 
life-threatening bleed than have her live with a possible 
debilitating stroke. They both again indicated that she is not 
interested in surgery anyway, and that she lived a long 
enjoyable life and "when [her] time comes, so be it." Patient's 
abdominal pain resolved without further intervention. Blood 
pressure remained well controlled while inpatient, and she was 
discharged on prior home regimen. ___ will assist with blood 
pressure and cardiovascular monitoring. PCP ___ follow for any 
medication adjustments. 

# COGNITIVE IMPAIRMENT: 
# DEMENTIA: Patient's son expressed concern about patient's 
ability to care for herself / manage medications at home. The 
son expressed desire that patient could potentially be 
discharged to facility following discharge. Patient was 
ultimately discharged home as her preferred SNF was not 
available and she/family requested discharge home. ___ 
consults assisted with evaluation. Patient is given added level 
of support with palliative care referral through home services. 
She will follow with ___ and social worker. 
     
# CKD, Stage III: Cr 1.5 at OSH, 1.4 here. Review of CHA records
shows that she seems to be at her baseline (1.6 in ___ and 
1.5
in ___.
  
# COPD: On 5L O2 per report. Denies any respiratory complaints 
at
this time. Continued on home albuterol and Spiriva.
   
# AFIB: 
On Coumadin for anticoagulation and metoprolol for rate control. 
Of note, she was given KCentra and vitamin K in the ED out of 
concern for possible upcoming surgical procedure. INR 2.6 
reduced to 1.4, but regained therapeutic levels prior to 
discharge. CHADS-Vasc score is 7 indicating significant risk of 
stroke. Per discussion with HCP (see above) restarted Warfarin 
with next scheduled INR check on ___ with ___ 
___ coagulation clinic (confirmed). 
  
# CHRONIC DIASTOLIC HEART FAILURE: 
No signs of volume overload. Patient was continued on home 
Lasix. 
  
# HTN: BP control as above

# DM2: 
- Home Lantus reduced dose was prescribed at time of discharge. 
Close monitoring and charting is recommended (patient has new 
meter 1 week old). Alarm symptoms of hyperglycemia and 
hypoglycemia was reviewed. Patient will likely need dose 
adjustment when she resumes home diet, though compliance with 
consistent carbohydrate diet is recommended. 
  
# HLD: Continue home statin.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 2.5 mg PO 6X/WEEK (___) 
2. Warfarin 5 mg PO 1X/WEEK (FR) 
3. Atorvastatin 80 mg PO QPM 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Tiotropium Bromide 1 CAP IH DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Glargine 38 Units Bedtime
8. Lisinopril 5 mg PO DAILY (reportedly not taking)
9. Metoprolol Succinate XL 25 mg PO DAILY 
10. Furosemide 60 mg PO DAILY 
11. Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN shortness of 
breath or wheezing 
12. Guaifenesin-CODEINE Phosphate 5 mL PO Q8H:PRN cough 

 
Discharge Medications:
1.  Glargine 20 Units Bedtime 
2.  Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN shortness of 
breath or wheezing  
3.  Atorvastatin 80 mg PO QPM  
4.  Cyanocobalamin 1000 mcg PO DAILY  
5.  Furosemide 60 mg PO DAILY  
6.  Guaifenesin-CODEINE Phosphate 5 mL PO Q8H:PRN cough  
7.  Metoprolol Succinate XL 25 mg PO DAILY  
8.  Tiotropium Bromide 1 CAP IH DAILY  
9.  Vitamin D 1000 UNIT PO DAILY  
10.  Warfarin 2.5 mg PO 6X/WEEK (___)  
11.  Warfarin 5 mg PO 1X/WEEK (FR)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Abdominal aortic aneurysm
Dementia
Paroxysmal Atrial fibrillation
Diabetes mellitus type 2
Chronic obstructive pulmonary disease on 5L O2
Coronary artery disease
Chronic kidney disease
Chronic diastolic congestive heart failure
Carcinoid tumor

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___ were admitted with abdominal discomfort in the setting of 
your AAA that is increasing in size. No surgery is being pursued 
with focus on consistent blood pressure control. Despite this 
therapy ___ are at risk for rupture of the aneurysm. Please 
follow with your primary care physician. ___ have been set up 
with home services that will include social worker and 
palliative care.

Sincerely, Your medical team at ___
 
Followup Instructions:
___